US07053212B2
Step A: 2-(Tetrahydro-pyran-2-yloxy)-benzaldehyde
To salicylaldehyde (2.35 mL, 22.05 mmol) was added 45 mL methylene chloride, 3,4-dihydro-2H-pyran (5.0 mL, 54.8 mmol) and pyridinium p-toluenesulfonate (0.55 g, 2.19 mmol). The reaction mixture was allowed to stir at room temperature overnight. Additional pyridinium p-toluenesulfonate (0.55 g, 2.19 mmol) was added and the reaction mixture was stirred at room temperature for 4 days. The reaction mixture was poured into saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer was extracted with two portions of methylene chloride. The combined organic layers were washed with saturated aqueous sodium chloride, dried (sodium sulfate), filtered, and concentrated to afford 2.96 g of an inseparable 60:40 mixture of salicylaldehyde and the title compound of Step A.

reactant | salicylaldehyde | 22.05 mmol, 2.35 mL | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 3,4-dihydro-2H-pyran | 54.8 mmol, 5.0 mL | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 2.19 mmol, 0.55 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | pyridinium p-toluenesulfonate | 2.19 mmol, 0.55 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | 2-(Tetrahydro-pyran-2-yloxy)-benzaldehyde | O1C(CCCC1)OC1=C(C=O)C=CC=C1 | C12H14O3
